US04776876
5-hydroxy-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methyl-nicotinic acid methyl ester
A solution of 47 g (0.129 mol) 5-acetoxy-2-(1-carbamoyl-1,2-dimethylpropyl-carbamoyl)-6-methyl-nicotinic acid methyl ester and 93.8 g phosphorus pentachloride in 470 ml phosphoroxychloride in stirred 12 hours at room temperature. The solution is then hydrolysed with ice and neutralized with sodium carbonate. The product is extracted with ethyl acetate, the extract is then dried across magnesium sulfate and compressed. The crude product is recrystallized from ethyl acetate/isopropyl ester.

reactant | 5-acetoxy-2-(1-carbamoyl-1,2-dimethylpropyl-carbamoyl)-6-methyl-nicotinic acid methyl ester | 0.129 mol, 47 g | COC(C1=C(N=C(C(=C1)OC(C)=O)C)C(NC(C(C)C)(C)C(N)=O)=O)=O | C17H23N3O6
reactant | phosphorus pentachloride | 93.8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | phosphoroxychloride | 470 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 5-hydroxy-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methyl-nicotinic acid methyl ester | COC(C1=C(N=C(C(=C1)O)C)C=1NC(C(N1)(C)C(C)C)=O)=O | C15H19N3O4
